US08633182B2
Step 1: Methanesulfonic acid (S)-1-methanesulfonyl-pyrrolidin-3-yl ester
(S)-3-Hydroxypyrrolidine (2 g, 23 mmol) is dissolved in 40 mL of tetrahydrofuran. DIPEA (10 mL, 57.36 mmol) is added and the reaction mixture is stirred for 30 min at room temperature. The reaction mixture is cooled to 0° C., methanesulfonyl chloride (3.73 mL, 48.21 mmol) is added dropwise and the reaction mixture is allowed to reach room temperature. After stirring for 2 h, the reaction mixture is concentrated under vacuum, water is added and the reaction mixture is extracted with ethyl acetate. The organic phase is collected, dried over sodium sulfate, separated and concentrated under vacuum. The crude product obtained is triturated with a solution of cyclohexane/dichloromethane 1:1 to give the title compound. (Yield: 2.2 g).

reactant | (S)-3-Hydroxypyrrolidine | 23 mmol, 2 g | O[C@@H]1CNCC1 | C4H9NO
reactant | DIPEA | 57.36 mmol, 10 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 48.21 mmol, 3.73 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | Methanesulfonic acid (S)-1-methanesulfonyl-pyrrolidin-3-yl ester | CS(=O)(=O)N1C[C@H](CC1)OS(=O)(=O)C | C6H13NO5S2
